US07935699B2
Benzyloxymethyl-2,2-dimethyl-[1,3]dioxane (5.54 g, 23.44 mmol) was dissolved in methanol (20 ml) and then 3N hydrochloric acid (3 ml) was added. The reaction was stirred at 25° C. for 30 min. After this point the pH was adjusted to 8 with solid sodium bicarbonate and evaporated. The residue was dissolved in ethyl acetate, filtered through a short silica gel pad, washed with ethyl acetate and concentrated in vacuo to afford 2-benzyloxymethyl-propane-1,3-diol (4.39 g, 95%) as an off-white solid: 1H NMR (300 MHz, CDCl3) δ ppm 1.99-2.07 (m, 1H, CH), 2.74 (s, 2H, 2×OH), 3.60 (d, J=5.7 Hz, 2 H, OCH2), 3.78 (d, J=5.4 Hz, 4H, 2×OCH2), 4.50 (s, 2H, OCH2Ar), 7.25-7.38 (m, 5H, Ar).

reactant | Benzyloxymethyl-2,2-dimethyl-[1,3]dioxane | 23.44 mmol, 5.54 g | C(C1=CC=CC=C1)OCC1OC(OCC1)(C)C | C14H20O3
reactant | hydrochloric acid | 3N, 3 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | methanol | 20 ml | CO | CH4O
product | 2-benzyloxymethyl-propane-1,3-diol | 4.39 g, 95% | C(C1=CC=CC=C1)OCC(CO)CO | C11H16O3
